US04140713
(a) 5-Acetyl-2-aminobenzenesulphonamide
A solution of 5-acetyl-2-fluorobenzenesulphonamide (0.5 g) in ethanol (40 ml) saturated with ammonia was heated at 100° in a bomb overnight. Concentration of the resultant solution yielded a yellow crystalline solid, 0.4 g, m.p. 263°-264° (from ethanol).

reactant | 5-acetyl-2-fluorobenzenesulphonamide | 0.5 g | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)N)F | C8H8FNO3S
reactant | ammonia | N | H3N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-Acetyl-2-aminobenzenesulphonamide | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)N)N | C8H10N2O3S
